datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C1=CC=CC=C1)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[O:10]([Na])C(CC)/C(C)=C(C)\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)=C(C)C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(OC)C(C)C(C)C([H])C(CCC)[OH+:10]1>>[OH:10]C(CCC)C([H])C(C)C(C)[C:20](OC)=[OH+:21] 21=20;20,10=10"
"[NH:10](C)C([H])C([H])/C([H])=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C([H])C([H])C([H])[NH+:10]1(C) 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CC.[O-:21]C>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C1=CC=CC=C1)CC 21=20;20,10=10"
"[Na][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OCC)OCC>>[Na][O+:21]([C:20]([O-:10])(OCC)OCC)C1=CC=CC=C1 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)CCCCCC 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(CC)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C([H])[O]1 10=20;20,21=21"
"[H][S+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC)C1=CC=CC=C1)C>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)C 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(CC)[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][O:10]C(CC)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H]N([C:20](=[O:10])O[H])CC.[O-:21]CC>>[H]N([C:20]([O-:10])(O[H])[O:21]CC)CC 21=20;20,10=10"
"[NH:10](C)C([H])/C(C)=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[NH+:10](C)C([H])C(C)=C1C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC)C.[O-:21][H]>>C1=CC=CC=C1N([C:20]([O-:10])(OC)[O:21][H])C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][S:10]C(C)C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(CC)[NH]1 10=20;20,21=21"
